US04937268
1-[[[3-[(6-Bromohexyl)oxy]]propyl]thio]-4-methylbenzene
3-[(4-Methylphenyl)thio]-1-propanol (4.0 g), 1,6-dibromohexane (16.06 g), 40% sodium hydroxide solution (40 ml) and TAB (1 g) were stirred together at room temperature for 18 h. The mixture was diluted with water (150 ml), extracted with ethyl acetate (2×150 ml), which was dried and evaporated in vacuo to give a colourless oil. Purification by FCC eluting with System A (0:20→1:19) gave the title compound (5.0 g) as a colourless oil. T.l.c. (System A 1:9) Rf 0.53.

reactant | 3-[(4-Methylphenyl)thio]-1-propanol | 4.0 g | CC1=CC=C(C=C1)SCCCO | C10H14OS
reactant | 1,6-dibromohexane | 16.06 g | BrCCCCCCBr | C6H12Br2
reactant | sodium hydroxide | 40 ml | [OH-].[Na+]
solvent | water | 150 ml | O | H2O
product | 1-[[[3-[(6-Bromohexyl)oxy]]propyl]thio]-4-methylbenzene | 5.0 g | BrCCCCCCOCCCSC1=CC=C(C=C1)C | C16H25BrOS
